US08728706B2
1.60 g (14 mmol) of t-butoxypotassium was added to a solution prepared by dissolving 20.30 g (0.1 mol) of ethyl 2-bromo-2,2-difluoroacetate in 140 ml of benzyl alcohol and 1200 ml of hexane at 0° C. in a nitrogen atmosphere. The mixture was stirred at 0° C. for 1 hour. After confirming disappearance of the raw materials by thin-layer chromatography (TLC), the reaction was terminated by adding 120 ml of concentrated hydrochloric acid. The mixture was washed twice with water, washed twice with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After evaporating the solvent under reduced pressure, the product was purified by column chromatography to obtain 15.37 g of benzyl 2-bromo-2,2-difluoroacetate shown by the following formula (yield: 58%).

reactant | t-butoxypotassium | 14 mmol, 1.60 g | C(C)(C)(C)O[K]
reactant | ethyl 2-bromo-2,2-difluoroacetate | 0.1 mol, 20.30 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | benzyl alcohol | 140 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | hexane | 1200 ml | CCCCCC | C6H14
product | benzyl 2-bromo-2,2-difluoroacetate | 15.37 g, yield: 58% | BrC(C(=O)OCC1=CC=CC=C1)(F)F | C9H7BrF2O2
